US09422240B2
4-({[5-(Trifluoromethyl)pyridin-2-yl]oxy}methyl)benzaldehyde
Instead of 6-(trifluoromethyl)pyridin-3-ol and 4-cyanobenzylbromide, 4-(hydroxymethyl)benzonitrile (1.87 g) and 2-fluoro-5-(trifluoromethyl)pyridine (1.55 g) were respectively used and treated by the same technique as in Reference Example 38-1 to give the titled compound as a pale yellow solid (1.49 g).

reactant | 6-(trifluoromethyl)pyridin-3-ol | FC(C1=CC=C(C=N1)O)(F)F | C6H4F3NO
reactant | 4-cyanobenzylbromide | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | 4-(hydroxymethyl)benzonitrile | 1.87 g | OCC1=CC=C(C#N)C=C1 | C8H7NO
reactant | 2-fluoro-5-(trifluoromethyl)pyridine | 1.55 g | FC1=NC=C(C=C1)C(F)(F)F | C6H3F4N
product | 4-({[5-(Trifluoromethyl)pyridin-2-yl]oxy}methyl)benzaldehyde | 1.49 g | FC(C=1C=CC(=NC1)OCC1=CC=C(C=O)C=C1)(F)F | C14H10F3NO2
